US06326066B1
A mixture of 9.2 g of 2,6-difluoro-4-[2-(p-ethoxyphenyl)ethyl]phenylboric acid (prepared by reacting 3,5-difluorobenzaldehyde with p-ethoxybenzyltriphenylphosphonium iodide by the Wittig method and subsequently hydrogenating the resultant styrene derivative on Pd/C), 5.9 g of 1-bromo-3,4-difluorobenzene, 38 ml of 2 molar aqueous Na2CO3 solution, 0.6 g of tetrakis(triphenylphosphine)palladium(0) and 75 ml of toluene is refluxed for two hours. The aqueous phase is extracted twice with toluene and combined with the organic phase. Customary aqueous work-up and chromatographic purification of the residue give 4-[2-(p-ethoxyphenyl)ethyl]-2,6,3′, 4′-tetrafluorobiphenyl, C 92 I, Δε+24.

reactant | 2,6-difluoro-4-[2-(p-ethoxyphenyl)ethyl]phenylboric acid | 9.2 g | FC1=C(C(=CC(=C1)CCC1=CC=C(C=C1)OCC)F)OB(O)O | C16H17BF2O4
reactant | 3,5-difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | p-ethoxybenzyltriphenylphosphonium iodide | [I-].C(C)OC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | 1-bromo-3,4-difluorobenzene | 5.9 g | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | Na2CO3 | 2 molar, 38 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(p-ethoxyphenyl)ethyl]-2,6,3′, 4′-tetrafluorobiphenyl | C(C)OC1=CC=C(C=C1)CCC1=CC(=C(C(=C1)F)C1=CC(=C(C=C1)F)F)F | C22H18F4O
